US06869962B2
6-Hydroxy-1,2-dimethyl-1H-indole-3-carboxylic acid isopropylamide
This material was prepared from 6-methoxy-1,2-dimethyl-1H-indol-3-carboxylic acid isopyropylamide 66a by treatment with BBr3 in a manner as previously described for example 1d. 1H NMR (300 MHz, CD3OD) δ7.47 (1H, d, J=8.5 Hz), 6.74 (1H, d, J=2.1 Hz), 6.67 (1H, dd, J=2.1, 8.5 Hz), 4.22 (1H, m), 3.61 (3H, s), 2.56 (3H, s), 1.28 (3H, s), 1.26 (3H, s). LCMS (ESI+) [M+H]/z Calc'd 247, found 247.

reactant | 6-methoxy-1,2-dimethyl-1H-indol-3-carboxylic acid | COC1=CC=C2C(=C(N(C2=C1)C)C)C(=O)O | C12H13NO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
product | 6-Hydroxy-1,2-dimethyl-1H-indole-3-carboxylic acid isopropylamide | C(C)(C)NC(=O)C1=C(N(C2=CC(=CC=C12)O)C)C | C14H18N2O2
